US07985753B2
1-(2-Chloro-pyridin-3-yl)-ethanone
2-Chloro-N-methoxy-N-methyl-nicotinamide (3.90 g, 19.4 mmol, 1.0 equiv) is dissolved in THF (200 mL) under nitrogen and the mixture is cooled in an ice bath. Methylmagnesium chloride (17.0 ml, 48.6 mmol, 2.5 equiv) is added within 2 minutes. After 15 min a grey precipitate is formed. Stirring is continued for 2 h, the mixture is cooled in an ice bath and sat. NH4Cl (150 mL) is added. The solution is acidified with 1N HCl solution (60 mL) followed by addition of sat. NaHCO3 solution (30 mL). The organic layer is separated and concentrated in vacuo. The residue is combined with the remaining water layer and extracted with diethyl ether (200 mL). The combined etheral layers are washed twice with brine (50 mL), dried over Na2SO4, filtered and concentrated in vacuo. This provides 2.57 g of the title compound as a yellow oil.

reactant | 2-Chloro-N-methoxy-N-methyl-nicotinamide | 19.4 mmol, 3.90 g, 1.0 equiv | ClC1=C(C(=O)N(C)OC)C=CC=N1 | C8H9ClN2O2
reactant | Methylmagnesium chloride | 48.6 mmol, 17.0 ml, 2.5 equiv | C[Mg]Cl
reactant | NH4Cl | 150 mL | [NH4+].[Cl-]
reactant | HCl | 1N, 60 mL | Cl | ClH
reactant | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 1-(2-Chloro-pyridin-3-yl)-ethanone | ClC1=NC=CC=C1C(C)=O | C7H6ClNO
